US08227601B2
To a solution of 2,4,6-trimethylbenzene-1-thiol (231 mg, 1.52 mmol) in 1-methyl-2-pyridone (2 mL) was added NaH (58 mg, 1.52 mmol). The reaction mixture was stirred at room temperature for 15 min and a solution of 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine (131 mg, 0.51 mmol) in 1-methyl-2-pyridone (2 mL) was added to the mixture. The mixture was heated at 60° C. for 16 h and cooled to room temperature. The reaction was poured into ice water and extracted with EtOAc (2×20 mL). The combined organic solution was washed with H2O (20 mL) and brine (20 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=75:25) yielded 180 mg (94%) of 7-benzyl-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine.

reactant | 2,4,6-trimethylbenzene-1-thiol | 1.52 mmol, 231 mg | CC1=C(C(=CC(=C1)C)C)S | C9H12S
reactant | NaH | 1.52 mmol, 58 mg | [H-].[Na+]
reactant | 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 0.51 mmol, 131 mg | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2Cl)N | C13H11ClN4
solvent | 1-methyl-2-pyridone | 2 mL | CN1C(C=CC=C1)=O | C6H7NO
solvent | 1-methyl-2-pyridone | 2 mL | CN1C(C=CC=C1)=O | C6H7NO
product | 7-benzyl-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 180 mg, 94% | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2SC2=C(C=C(C=C2C)C)C)N | C22H22N4S
